* Coriolis Structural SPICE Driver
* Generated on Apr 17, 2025, 16:03
* Cell/Subckt "expmob2".
* 
* INTERF vss
* INTERF vdd
* INTERF outputs[9]
* INTERF outputs[8]
* INTERF outputs[7]
* INTERF outputs[6]
* INTERF outputs[5]
* INTERF outputs[4]
* INTERF outputs[3]
* INTERF outputs[2]
* INTERF outputs[15]
* INTERF outputs[14]
* INTERF outputs[13]
* INTERF outputs[12]
* INTERF outputs[11]
* INTERF outputs[10]
* INTERF outputs[1]
* INTERF outputs[0]
* INTERF inputs[9]
* INTERF inputs[8]
* INTERF inputs[7]
* INTERF inputs[6]
* INTERF inputs[5]
* INTERF inputs[4]
* INTERF inputs[3]
* INTERF inputs[2]
* INTERF inputs[15]
* INTERF inputs[14]
* INTERF inputs[13]
* INTERF inputs[12]
* INTERF inputs[11]
* INTERF inputs[10]
* INTERF inputs[1]
* INTERF inputs[0]
* INTERF clk

* Terminal models (aka standard cells) used througout all the hierarchy.
.include nexor2_x0.spi
.include and2_x1.spi
.include xor2_x0.spi
.include and21nor_x0.spi
.include and3_x1.spi
.include and4_x1.spi
.include or3_x1.spi
.include nor4_x0.spi
.include mux2_x1.spi
.include nand4_x0.spi
.include dff_x1.spi
.include nand2_x0.spi
.include nand3_x0.spi
.include or21nand_x0.spi
.include one_x1.spi
.include nor2_x0.spi
.include inv_x0.spi

* Non-terminal models (part of the user's design hierarchy).

.subckt expmob2 0 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 59 60 61 62 63 64 65 66 67 68 69 70 71 72 73 74 76
* NET     0 = vss
* NET     1 = vdd
* NET     2 = outputs[9]
* NET     3 = outputs[8]
* NET     4 = outputs[7]
* NET     5 = outputs[6]
* NET     6 = outputs[5]
* NET     7 = outputs[4]
* NET     8 = outputs[3]
* NET     9 = outputs[2]
* NET    10 = outputs[15]
* NET    11 = outputs[14]
* NET    12 = outputs[13]
* NET    13 = outputs[12]
* NET    14 = outputs[11]
* NET    15 = outputs[10]
* NET    16 = outputs[1]
* NET    17 = outputs[0]
* NET    18 = one_0
* NET    19 = n[9]
* NET    20 = n[8]
* NET    21 = n[7]
* NET    22 = n[6]
* NET    23 = n[5]
* NET    24 = n[4]
* NET    25 = n[31]
* NET    26 = n[30]
* NET    27 = n[3]
* NET    28 = n[29]
* NET    29 = n[28]
* NET    30 = n[27]
* NET    31 = n[26]
* NET    32 = n[25]
* NET    33 = n[24]
* NET    34 = n[23]
* NET    35 = n[22]
* NET    36 = n[21]
* NET    37 = n[20]
* NET    38 = n[2]
* NET    39 = n[19]
* NET    40 = n[18]
* NET    41 = n[17]
* NET    42 = n[16]
* NET    43 = n[15]
* NET    44 = n[14]
* NET    45 = n[13]
* NET    46 = n[12]
* NET    47 = n[11]
* NET    48 = n[10]
* NET    49 = n[1]
* NET    50 = n[0]
* NET    51 = mem_inputs[9]
* NET    52 = mem_inputs[8]
* NET    53 = mem_inputs[15]
* NET    54 = mem_inputs[14]
* NET    55 = mem_inputs[13]
* NET    56 = mem_inputs[12]
* NET    57 = mem_inputs[11]
* NET    58 = mem_inputs[10]
* NET    59 = inputs[9]
* NET    60 = inputs[8]
* NET    61 = inputs[7]
* NET    62 = inputs[6]
* NET    63 = inputs[5]
* NET    64 = inputs[4]
* NET    65 = inputs[3]
* NET    66 = inputs[2]
* NET    67 = inputs[15]
* NET    68 = inputs[14]
* NET    69 = inputs[13]
* NET    70 = inputs[12]
* NET    71 = inputs[11]
* NET    72 = inputs[10]
* NET    73 = inputs[1]
* NET    74 = inputs[0]
* NET    75 = init
* NET    76 = clk
* NET    77 = abc_1342_new_n317
* NET    78 = abc_1342_new_n315
* NET    79 = abc_1342_new_n313
* NET    80 = abc_1342_new_n311
* NET    81 = abc_1342_new_n310
* NET    82 = abc_1342_new_n309
* NET    83 = abc_1342_new_n308
* NET    84 = abc_1342_new_n305
* NET    85 = abc_1342_new_n303
* NET    86 = abc_1342_new_n302
* NET    87 = abc_1342_new_n301
* NET    88 = abc_1342_new_n299
* NET    89 = abc_1342_new_n297
* NET    90 = abc_1342_new_n296
* NET    91 = abc_1342_new_n294
* NET    92 = abc_1342_new_n293
* NET    93 = abc_1342_new_n292
* NET    94 = abc_1342_new_n291
* NET    95 = abc_1342_new_n288
* NET    96 = abc_1342_new_n286
* NET    97 = abc_1342_new_n285
* NET    98 = abc_1342_new_n283
* NET    99 = abc_1342_new_n282
* NET   100 = abc_1342_new_n281
* NET   101 = abc_1342_new_n280
* NET   102 = abc_1342_new_n277
* NET   103 = abc_1342_new_n275
* NET   104 = abc_1342_new_n274
* NET   105 = abc_1342_new_n272
* NET   106 = abc_1342_new_n271
* NET   107 = abc_1342_new_n270
* NET   108 = abc_1342_new_n269
* NET   109 = abc_1342_new_n267
* NET   110 = abc_1342_new_n265
* NET   111 = abc_1342_new_n263
* NET   112 = abc_1342_new_n262
* NET   113 = abc_1342_new_n261
* NET   114 = abc_1342_new_n259
* NET   115 = abc_1342_new_n257
* NET   116 = abc_1342_new_n255
* NET   117 = abc_1342_new_n254
* NET   118 = abc_1342_new_n253
* NET   119 = abc_1342_new_n251
* NET   120 = abc_1342_new_n249
* NET   121 = abc_1342_new_n248
* NET   122 = abc_1342_new_n246
* NET   123 = abc_1342_new_n245
* NET   124 = abc_1342_new_n243
* NET   125 = abc_1342_new_n242
* NET   126 = abc_1342_new_n240
* NET   127 = abc_1342_new_n239
* NET   128 = abc_1342_new_n235
* NET   129 = abc_1342_new_n234
* NET   130 = abc_1342_new_n233
* NET   131 = abc_1342_new_n231
* NET   132 = abc_1342_new_n230
* NET   133 = abc_1342_new_n229
* NET   134 = abc_1342_new_n227
* NET   135 = abc_1342_new_n226
* NET   136 = abc_1342_new_n225
* NET   137 = abc_1342_new_n223
* NET   138 = abc_1342_new_n222
* NET   139 = abc_1342_new_n221
* NET   140 = abc_1342_new_n219
* NET   141 = abc_1342_new_n218
* NET   142 = abc_1342_new_n217
* NET   143 = abc_1342_new_n215
* NET   144 = abc_1342_new_n214
* NET   145 = abc_1342_new_n213
* NET   146 = abc_1342_new_n211
* NET   147 = abc_1342_new_n210
* NET   148 = abc_1342_new_n209
* NET   149 = abc_1342_new_n207
* NET   150 = abc_1342_new_n206
* NET   151 = abc_1342_new_n205
* NET   152 = abc_1342_new_n203
* NET   153 = abc_1342_new_n202
* NET   154 = abc_1342_new_n201
* NET   155 = abc_1342_new_n199
* NET   156 = abc_1342_new_n198
* NET   157 = abc_1342_new_n197
* NET   158 = abc_1342_new_n195
* NET   159 = abc_1342_new_n194
* NET   160 = abc_1342_new_n193
* NET   161 = abc_1342_new_n191
* NET   162 = abc_1342_new_n190
* NET   163 = abc_1342_new_n189
* NET   164 = abc_1342_new_n187
* NET   165 = abc_1342_new_n186
* NET   166 = abc_1342_new_n185
* NET   167 = abc_1342_new_n183
* NET   168 = abc_1342_new_n182
* NET   169 = abc_1342_new_n181
* NET   170 = abc_1342_new_n179
* NET   171 = abc_1342_new_n178
* NET   172 = abc_1342_new_n177
* NET   173 = abc_1342_new_n176
* NET   174 = abc_1342_new_n175
* NET   175 = abc_1342_new_n174
* NET   176 = abc_1342_new_n173
* NET   177 = abc_1342_new_n172
* NET   178 = abc_1342_new_n171
* NET   179 = abc_1342_new_n170
* NET   180 = abc_1342_new_n169
* NET   181 = abc_1342_new_n168
* NET   182 = abc_1342_new_n167
* NET   183 = abc_1342_new_n166
* NET   184 = abc_1342_new_n165
* NET   185 = abc_1342_new_n164
* NET   186 = abc_1342_new_n163
* NET   187 = abc_1342_new_n162
* NET   188 = abc_1342_new_n161
* NET   189 = abc_1342_new_n160
* NET   190 = abc_1342_new_n159
* NET   191 = abc_1342_new_n158
* NET   192 = abc_1342_new_n157
* NET   193 = abc_1342_new_n148
* NET   194 = abc_1342_new_n147
* NET   195 = abc_1342_new_n146
* NET   196 = abc_1342_new_n145
* NET   197 = abc_1342_new_n144
* NET   198 = abc_1342_new_n143
* NET   199 = abc_1342_new_n142
* NET   200 = abc_1342_new_n141
* NET   201 = abc_1342_new_n140
* NET   202 = abc_1342_new_n139
* NET   203 = abc_1342_new_n138
* NET   204 = abc_1342_new_n137
* NET   205 = abc_1342_new_n136
* NET   206 = abc_1342_new_n135
* NET   207 = abc_1342_new_n134
* NET   208 = abc_1342_new_n133
* NET   209 = abc_1342_new_n132
* NET   210 = abc_1342_new_n131
* NET   211 = abc_1342_new_n130
* NET   212 = abc_1342_new_n129
* NET   213 = abc_1342_new_n128
* NET   214 = abc_1342_new_n127
* NET   215 = abc_1342_new_n126
* NET   216 = abc_1342_new_n125
* NET   217 = abc_1342_new_n124
* NET   218 = abc_1342_new_n123
* NET   219 = abc_1342_new_n122
* NET   220 = abc_1342_auto_rtlil_cc_2739_MuxGate_1341
* NET   221 = abc_1342_auto_rtlil_cc_2739_MuxGate_1339
* NET   222 = abc_1342_auto_rtlil_cc_2739_MuxGate_1337
* NET   223 = abc_1342_auto_rtlil_cc_2739_MuxGate_1335
* NET   224 = abc_1342_auto_rtlil_cc_2739_MuxGate_1333
* NET   225 = abc_1342_auto_rtlil_cc_2739_MuxGate_1331
* NET   226 = abc_1342_auto_rtlil_cc_2739_MuxGate_1329
* NET   227 = abc_1342_auto_rtlil_cc_2739_MuxGate_1327
* NET   228 = abc_1342_auto_rtlil_cc_2739_MuxGate_1325
* NET   229 = abc_1342_auto_rtlil_cc_2739_MuxGate_1323
* NET   230 = abc_1342_auto_rtlil_cc_2739_MuxGate_1321
* NET   231 = abc_1342_auto_rtlil_cc_2739_MuxGate_1319
* NET   232 = abc_1342_auto_rtlil_cc_2739_MuxGate_1317
* NET   233 = abc_1342_auto_rtlil_cc_2739_MuxGate_1315
* NET   234 = abc_1342_auto_rtlil_cc_2739_MuxGate_1313
* NET   235 = abc_1342_auto_rtlil_cc_2739_MuxGate_1311
* NET   236 = abc_1342_auto_rtlil_cc_2739_MuxGate_1309
* NET   237 = abc_1342_auto_rtlil_cc_2739_MuxGate_1307
* NET   238 = abc_1342_auto_rtlil_cc_2739_MuxGate_1305
* NET   239 = abc_1342_auto_rtlil_cc_2739_MuxGate_1303
* NET   240 = abc_1342_auto_rtlil_cc_2739_MuxGate_1301
* NET   241 = abc_1342_auto_rtlil_cc_2739_MuxGate_1299
* NET   242 = abc_1342_auto_rtlil_cc_2739_MuxGate_1297
* NET   243 = abc_1342_auto_rtlil_cc_2739_MuxGate_1295
* NET   244 = abc_1342_auto_rtlil_cc_2739_MuxGate_1293
* NET   245 = abc_1342_auto_rtlil_cc_2739_MuxGate_1291
* NET   246 = abc_1342_auto_rtlil_cc_2739_MuxGate_1289
* NET   247 = abc_1342_auto_rtlil_cc_2739_MuxGate_1287
* NET   248 = abc_1342_auto_rtlil_cc_2739_MuxGate_1285
* NET   249 = abc_1342_auto_rtlil_cc_2739_MuxGate_1283
* NET   250 = abc_1342_auto_rtlil_cc_2739_MuxGate_1281
* NET   251 = abc_1342_auto_rtlil_cc_2739_MuxGate_1279
* NET   252 = abc_1342_auto_rtlil_cc_2739_MuxGate_1277
* NET   253 = abc_1342_auto_rtlil_cc_2739_MuxGate_1275
* NET   254 = abc_1342_auto_rtlil_cc_2739_MuxGate_1273
* NET   255 = abc_1342_auto_rtlil_cc_2739_MuxGate_1271
* NET   256 = abc_1342_auto_rtlil_cc_2739_MuxGate_1269
* NET   257 = abc_1342_auto_rtlil_cc_2739_MuxGate_1267
* NET   258 = abc_1342_auto_rtlil_cc_2739_MuxGate_1265
* NET   259 = abc_1342_auto_rtlil_cc_2739_MuxGate_1263
* NET   260 = abc_1342_auto_rtlil_cc_2739_MuxGate_1261
* NET   261 = abc_1342_auto_rtlil_cc_2739_MuxGate_1259
* NET   262 = abc_1342_auto_rtlil_cc_2739_MuxGate_1257
* NET   263 = abc_1342_auto_rtlil_cc_2739_MuxGate_1255
* NET   264 = abc_1342_auto_rtlil_cc_2739_MuxGate_1253
* NET   265 = abc_1342_auto_rtlil_cc_2739_MuxGate_1251
* NET   266 = abc_1342_auto_rtlil_cc_2739_MuxGate_1249
* NET   267 = abc_1342_auto_rtlil_cc_2739_MuxGate_1247

xsubckt_168_nexor2_x0 1 0 95 207 232 nexor2_x0
xsubckt_56_and2_x1 1 0 171 175 75 and2_x1
xsubckt_30_xor2_x0 1 0 56 3 2 xor2_x0
xsubckt_122_nexor2_x0 1 0 125 193 249 nexor2_x0
xsubckt_154_and21nor_x0 1 0 238 201 105 103 and21nor_x0
xsubckt_105_and3_x1 1 0 134 175 8 75 and3_x1
xsubckt_131_and2_x1 1 0 118 119 127 and2_x1
xsubckt_191_and2_x1 1 0 79 80 30 and2_x1
xsubckt_164_and4_x1 1 0 96 97 101 106 116 and4_x1
xsubckt_62_or3_x1 1 0 266 167 168 169 or3_x1
xsubckt_33_xor2_x0 1 0 51 9 8 xor2_x0
xsubckt_35_nor4_x0 1 0 192 29 28 26 25 nor4_x0
xsubckt_102_or3_x1 1 0 256 137 138 139 or3_x1
xsubckt_106_or3_x1 1 0 255 134 135 136 or3_x1
xsubckt_115_mux2_x1 1 0 74 17 75 252 mux2_x1
xsubckt_126_and3_x1 1 0 121 38 27 24 and3_x1
xsubckt_134_nexor2_x0 1 0 117 196 245 nexor2_x0
xsubckt_152_and2_x1 1 0 104 46 45 and2_x1
xsubckt_173_nexor2_x0 1 0 92 208 231 nexor2_x0
xsubckt_169_nand4_x0 1 0 94 41 42 40 39 nand4_x0
xsubckt_66_or3_x1 1 0 265 164 165 166 or3_x1
xsubckt_83_and3_x1 1 0 151 175 3 75 and3_x1
xsubckt_97_and3_x1 1 0 140 175 6 75 and3_x1
xsubckt_112_and3_x1 1 0 129 175 16 75 and3_x1
xsubckt_113_and2_x1 1 0 128 73 218 and2_x1
xsubckt_125_nexor2_x0 1 0 124 194 248 nexor2_x0
xsubckt_220_dff_x1 1 0 247 76 24 dff_x1
xsubckt_187_and2_x1 1 0 82 83 87 and2_x1
xsubckt_79_and3_x1 1 0 154 174 51 75 and3_x1
xsubckt_29_xor2_x0 1 0 55 15 14 xor2_x0
xsubckt_108_and3_x1 1 0 132 174 7 75 and3_x1
xsubckt_109_and2_x1 1 0 131 66 218 and2_x1
xsubckt_116_nexor2_x0 1 0 171 219 251 nexor2_x0
xsubckt_148_nand2_x0 1 0 107 48 47 nand2_x0
xsubckt_150_nand3_x0 1 0 105 106 116 46 nand3_x0
xsubckt_226_dff_x1 1 0 241 76 48 dff_x1
xsubckt_225_dff_x1 1 0 242 76 19 dff_x1
xsubckt_224_dff_x1 1 0 243 76 20 dff_x1
xsubckt_223_dff_x1 1 0 244 76 21 dff_x1
xsubckt_222_dff_x1 1 0 245 76 22 dff_x1
xsubckt_221_dff_x1 1 0 246 76 23 dff_x1
xsubckt_198_and21nor_x0 1 0 220 77 26 214 and21nor_x0
xsubckt_193_and3_x1 1 0 78 80 29 30 and3_x1
xsubckt_170_nor4_x0 1 0 93 94 100 107 112 nor4_x0
xsubckt_65_and3_x1 1 0 164 175 12 75 and3_x1
xsubckt_50_and4_x1 1 0 177 178 185 190 194 and4_x1
xsubckt_48_nand3_x0 1 0 179 181 185 190 nand3_x0
xsubckt_118_xor2_x0 1 0 49 50 126 xor2_x0
xsubckt_229_dff_x1 1 0 238 76 45 dff_x1
xsubckt_228_dff_x1 1 0 239 76 46 dff_x1
xsubckt_227_dff_x1 1 0 240 76 47 dff_x1
xsubckt_194_nexor2_x0 1 0 79 211 223 nexor2_x0
xsubckt_53_or21nand_x0 1 0 174 25 180 176 or21nand_x0
xsubckt_38_nor4_x0 1 0 189 20 19 48 47 nor4_x0
xsubckt_90_or3_x1 1 0 259 146 147 148 or3_x1
xsubckt_94_or3_x1 1 0 258 143 144 145 or3_x1
xsubckt_146_nexor2_x0 1 0 110 199 240 nexor2_x0
xsubckt_185_nexor2_x0 1 0 84 216 226 nexor2_x0
xsubckt_176_nexor2_x0 1 0 91 36 230 nexor2_x0
xsubckt_47_and3_x1 1 0 180 181 185 190 and3_x1
xsubckt_98_or3_x1 1 0 257 140 141 142 or3_x1
xsubckt_128_nexor2_x0 1 0 122 24 247 nexor2_x0
xsubckt_167_nexor2_x0 1 0 96 206 233 nexor2_x0
xsubckt_68_and3_x1 1 0 162 175 13 75 and3_x1
xsubckt_45_nor4_x0 1 0 182 23 24 21 22 nor4_x0
xsubckt_121_and4_x1 1 0 124 127 175 38 75 and4_x1
xsubckt_123_and2_x1 1 0 123 38 27 and2_x1
xsubckt_130_nexor2_x0 1 0 120 23 246 nexor2_x0
xcmpt_one_0 1 0 18 one_x1
xsubckt_195_and4_x1 1 0 77 80 29 28 30 and4_x1
xsubckt_181_and4_x1 1 0 85 86 93 116 37 and4_x1
xsubckt_80_and2_x1 1 0 153 59 218 and2_x1
xsubckt_69_and2_x1 1 0 161 70 218 and2_x1
xsubckt_55_and2_x1 1 0 172 67 218 and2_x1
xsubckt_54_and3_x1 1 0 173 174 53 75 and3_x1
xsubckt_197_nexor2_x0 1 0 77 213 221 nexor2_x0
xsubckt_75_and3_x1 1 0 157 174 58 75 and3_x1
xsubckt_89_and3_x1 1 0 146 175 4 75 and3_x1
xsubckt_143_and3_x1 1 0 110 113 116 48 and3_x1
xsubckt_151_nexor2_x0 1 0 109 200 239 nexor2_x0
xsubckt_190_nexor2_x0 1 0 81 31 225 nexor2_x0
xsubckt_76_and2_x1 1 0 156 72 218 and2_x1
xsubckt_51_nand4_x0 1 0 176 178 185 190 194 nand4_x0
xsubckt_37_and2_x1 1 0 190 191 192 and2_x1
xsubckt_139_and3_x1 1 0 113 21 20 19 and3_x1
xsubckt_142_nexor2_x0 1 0 114 19 242 nexor2_x0
xsubckt_57_and3_x1 1 0 170 175 10 75 and3_x1
xsubckt_32_xor2_x0 1 0 58 7 6 xor2_x0
xsubckt_111_and3_x1 1 0 130 174 9 75 and3_x1
xsubckt_186_and2_x1 1 0 83 33 32 and2_x1
xsubckt_182_and21nor_x0 1 0 228 210 88 85 and21nor_x0
xsubckt_58_or3_x1 1 0 267 170 172 173 or3_x1
xsubckt_42_and4_x1 1 0 185 186 187 188 189 and4_x1
xsubckt_28_xor2_x0 1 0 54 13 12 xor2_x0
xsubckt_124_nand4_x0 1 0 122 123 127 175 75 nand4_x0
xsubckt_145_and4_x1 1 0 109 113 116 48 47 and4_x1
xsubckt_147_and2_x1 1 0 108 48 47 and2_x1
xsubckt_159_nand4_x0 1 0 100 46 45 44 43 nand4_x0
xsubckt_213_dff_x1 1 0 253 76 9 dff_x1
xsubckt_212_dff_x1 1 0 254 76 7 dff_x1
xsubckt_211_dff_x1 1 0 255 76 5 dff_x1
xsubckt_210_dff_x1 1 0 256 76 3 dff_x1
xsubckt_43_nor2_x0 1 0 184 49 50 nor2_x0
xsubckt_41_nor4_x0 1 0 186 37 36 35 34 nor4_x0
xsubckt_20_inv_x0 1 0 47 199 inv_x0
xsubckt_21_inv_x0 1 0 48 198 inv_x0
xsubckt_107_and3_x1 1 0 133 175 9 75 and3_x1
xsubckt_132_and3_x1 1 0 117 118 175 75 and3_x1
xsubckt_140_nand3_x0 1 0 112 21 20 19 nand3_x0
xsubckt_219_dff_x1 1 0 248 76 27 dff_x1
xsubckt_218_dff_x1 1 0 249 76 38 dff_x1
xsubckt_217_dff_x1 1 0 250 76 49 dff_x1
xsubckt_216_dff_x1 1 0 251 76 50 dff_x1
xsubckt_215_dff_x1 1 0 18 76 75 dff_x1
xsubckt_214_dff_x1 1 0 252 76 17 dff_x1
xsubckt_177_nand4_x0 1 0 88 90 93 116 35 nand4_x0
xsubckt_22_inv_x0 1 0 20 197 inv_x0
xsubckt_23_inv_x0 1 0 22 196 inv_x0
xsubckt_24_inv_x0 1 0 21 195 inv_x0
xsubckt_25_inv_x0 1 0 27 194 inv_x0
xsubckt_26_inv_x0 1 0 38 193 inv_x0
xsubckt_82_or3_x1 1 0 261 152 153 154 or3_x1
xsubckt_153_and3_x1 1 0 103 104 106 116 and3_x1
xsubckt_184_nexor2_x0 1 0 85 215 227 nexor2_x0
xsubckt_72_and2_x1 1 0 159 71 218 and2_x1
xsubckt_71_and3_x1 1 0 160 174 57 75 and3_x1
xsubckt_46_and3_x1 1 0 181 182 183 194 and3_x1
xsubckt_0_inv_x0 1 0 50 219 inv_x0
xsubckt_1_inv_x0 1 0 75 218 inv_x0
xsubckt_2_inv_x0 1 0 30 217 inv_x0
xsubckt_3_inv_x0 1 0 32 216 inv_x0
xsubckt_4_inv_x0 1 0 33 215 inv_x0
xsubckt_86_or3_x1 1 0 260 149 150 151 or3_x1
xsubckt_99_and3_x1 1 0 139 175 7 75 and3_x1
xsubckt_100_and3_x1 1 0 138 174 3 75 and3_x1
xsubckt_101_and2_x1 1 0 137 64 218 and2_x1
xsubckt_136_nexor2_x0 1 0 116 195 244 nexor2_x0
xsubckt_240_dff_x1 1 0 227 76 33 dff_x1
xsubckt_5_inv_x0 1 0 25 214 inv_x0
xsubckt_6_inv_x0 1 0 26 213 inv_x0
xsubckt_7_inv_x0 1 0 28 212 inv_x0
xsubckt_8_inv_x0 1 0 29 211 inv_x0
xsubckt_9_inv_x0 1 0 34 210 inv_x0
xsubckt_160_and3_x1 1 0 99 101 106 116 and3_x1
xsubckt_246_dff_x1 1 0 221 76 26 dff_x1
xsubckt_245_dff_x1 1 0 222 76 28 dff_x1
xsubckt_244_dff_x1 1 0 223 76 29 dff_x1
xsubckt_243_dff_x1 1 0 224 76 30 dff_x1
xsubckt_242_dff_x1 1 0 225 76 31 dff_x1
xsubckt_241_dff_x1 1 0 226 76 32 dff_x1
xsubckt_67_and3_x1 1 0 163 174 56 75 and3_x1
xsubckt_92_and3_x1 1 0 144 175 5 75 and3_x1
xsubckt_93_and2_x1 1 0 143 62 218 and2_x1
xsubckt_157_nexor2_x0 1 0 102 203 236 nexor2_x0
xsubckt_247_dff_x1 1 0 220 76 25 dff_x1
xsubckt_196_nexor2_x0 1 0 78 212 222 nexor2_x0
xsubckt_141_and4_x1 1 0 111 116 21 20 19 and4_x1
xsubckt_155_and4_x1 1 0 102 104 106 116 44 and4_x1
xsubckt_61_and2_x1 1 0 167 68 218 and2_x1
xsubckt_60_and3_x1 1 0 168 174 54 75 and3_x1
xsubckt_49_and3_x1 1 0 178 182 184 38 and3_x1
xsubckt_103_and3_x1 1 0 136 174 5 75 and3_x1
xsubckt_104_and2_x1 1 0 135 65 218 and2_x1
xsubckt_188_nand3_x0 1 0 81 82 93 116 nand3_x0
xsubckt_178_nexor2_x0 1 0 89 209 229 nexor2_x0
xsubckt_44_or21nand_x0 1 0 183 50 49 38 or21nand_x0
xsubckt_31_xor2_x0 1 0 57 5 4 xor2_x0
xsubckt_183_and4_x1 1 0 84 87 93 116 33 and4_x1
xsubckt_81_and3_x1 1 0 152 175 2 75 and3_x1
xsubckt_95_and3_x1 1 0 142 174 15 75 and3_x1
xsubckt_96_and2_x1 1 0 141 63 218 and2_x1
xsubckt_158_and4_x1 1 0 101 46 45 44 43 and4_x1
xsubckt_201_dff_x1 1 0 265 76 55 dff_x1
xsubckt_200_dff_x1 1 0 266 76 54 dff_x1
xsubckt_171_and2_x1 1 0 92 93 116 and2_x1
xsubckt_162_nexor2_x0 1 0 99 205 235 nexor2_x0
xsubckt_77_and3_x1 1 0 155 175 15 75 and3_x1
xsubckt_27_xor2_x0 1 0 53 11 10 xor2_x0
xsubckt_40_nor4_x0 1 0 187 41 42 40 39 nor4_x0
xsubckt_206_dff_x1 1 0 260 76 52 dff_x1
xsubckt_205_dff_x1 1 0 261 76 51 dff_x1
xsubckt_204_dff_x1 1 0 262 76 58 dff_x1
xsubckt_203_dff_x1 1 0 263 76 57 dff_x1
xsubckt_202_dff_x1 1 0 264 76 56 dff_x1
xsubckt_179_and4_x1 1 0 87 37 36 35 34 and4_x1
xsubckt_166_and3_x1 1 0 95 98 41 40 and3_x1
xsubckt_70_or3_x1 1 0 264 161 162 163 or3_x1
xsubckt_64_and2_x1 1 0 165 69 218 and2_x1
xsubckt_63_and3_x1 1 0 166 174 55 75 and3_x1
xsubckt_14_inv_x0 1 0 42 205 inv_x0
xsubckt_13_inv_x0 1 0 40 206 inv_x0
xsubckt_12_inv_x0 1 0 39 207 inv_x0
xsubckt_11_inv_x0 1 0 37 208 inv_x0
xsubckt_10_inv_x0 1 0 35 209 inv_x0
xsubckt_110_or3_x1 1 0 254 131 132 133 or3_x1
xsubckt_114_or3_x1 1 0 253 128 129 130 or3_x1
xsubckt_144_nexor2_x0 1 0 111 198 241 nexor2_x0
xsubckt_209_dff_x1 1 0 257 76 15 dff_x1
xsubckt_208_dff_x1 1 0 258 76 13 dff_x1
xsubckt_207_dff_x1 1 0 259 76 11 dff_x1
xsubckt_192_nexor2_x0 1 0 80 217 224 nexor2_x0
xsubckt_74_or3_x1 1 0 263 158 159 160 or3_x1
xsubckt_59_and3_x1 1 0 169 175 11 75 and3_x1
xsubckt_19_inv_x0 1 0 46 200 inv_x0
xsubckt_18_inv_x0 1 0 45 201 inv_x0
xsubckt_17_inv_x0 1 0 44 202 inv_x0
xsubckt_16_inv_x0 1 0 43 203 inv_x0
xsubckt_15_inv_x0 1 0 41 204 inv_x0
xsubckt_34_xor2_x0 1 0 52 17 16 xor2_x0
xsubckt_36_nor4_x0 1 0 191 33 32 31 30 nor4_x0
xsubckt_84_and3_x1 1 0 150 174 52 75 and3_x1
xsubckt_174_and2_x1 1 0 90 37 36 and2_x1
xsubckt_78_or3_x1 1 0 262 155 156 157 or3_x1
xsubckt_85_and2_x1 1 0 149 60 218 and2_x1
xsubckt_149_and2_x1 1 0 106 108 113 and2_x1
xsubckt_233_dff_x1 1 0 234 76 41 dff_x1
xsubckt_232_dff_x1 1 0 235 76 42 dff_x1
xsubckt_231_dff_x1 1 0 236 76 43 dff_x1
xsubckt_230_dff_x1 1 0 237 76 44 dff_x1
xsubckt_165_nexor2_x0 1 0 98 204 234 nexor2_x0
xsubckt_91_and3_x1 1 0 145 174 13 75 and3_x1
xsubckt_120_and3_x1 1 0 125 127 175 75 and3_x1
xsubckt_133_and4_x1 1 0 116 118 175 22 75 and4_x1
xsubckt_135_and2_x1 1 0 115 116 21 and2_x1
xsubckt_156_nexor2_x0 1 0 103 202 237 nexor2_x0
xsubckt_239_dff_x1 1 0 228 76 34 dff_x1
xsubckt_238_dff_x1 1 0 229 76 35 dff_x1
xsubckt_237_dff_x1 1 0 230 76 36 dff_x1
xsubckt_236_dff_x1 1 0 231 76 37 dff_x1
xsubckt_235_dff_x1 1 0 232 76 39 dff_x1
xsubckt_234_dff_x1 1 0 233 76 40 dff_x1
xsubckt_180_and3_x1 1 0 86 36 35 34 and3_x1
xsubckt_39_nor4_x0 1 0 188 46 45 44 43 nor4_x0
xsubckt_119_mux2_x1 1 0 49 126 171 250 mux2_x1
xsubckt_129_and4_x1 1 0 119 38 27 23 24 and4_x1
xsubckt_189_and4_x1 1 0 80 82 93 116 31 and4_x1
xsubckt_172_nand3_x0 1 0 91 93 116 37 nand3_x0
xsubckt_73_and3_x1 1 0 158 175 14 75 and3_x1
xsubckt_52_and21nor_x0 1 0 175 214 179 177 and21nor_x0
xsubckt_87_and3_x1 1 0 148 174 11 75 and3_x1
xsubckt_88_and2_x1 1 0 147 61 218 and2_x1
xsubckt_117_and2_x1 1 0 127 49 50 and2_x1
xsubckt_138_nexor2_x0 1 0 115 197 243 nexor2_x0
xsubckt_199_dff_x1 1 0 267 76 53 dff_x1
xsubckt_175_and4_x1 1 0 89 93 116 37 36 and4_x1
xsubckt_163_and2_x1 1 0 97 41 42 and2_x1
xsubckt_161_and4_x1 1 0 98 101 106 116 42 and4_x1
xsubckt_127_nand4_x0 1 0 120 121 127 175 75 nand4_x0
xsubckt_137_nand3_x0 1 0 114 116 21 20 nand3_x0
.ends expmob2
